US05087640
To a solution of 2.4 g of N-(3,5-dibromophenyl)-N'-t-pentylthiourea produced in Example A-10 in 55 ml of dichloromethane were added 3.3 g of triphenylphosphine, 2.0 g of carbon tetrachloride and 1.3 g of triethylamine. The mixture was refluxed for 4 hours and evaporated in vacuo. The residue was extracted with petroleum ether and the extract evaporated in vacuo to give N-(3,5-dibromophenyl)-N'-t-pentylcarbodiimide as an oil. To a solution of this oil in 20 ml of DMF were added 1.2 g of cyanamide and 0.1 ml of diisopropylethylamine. The mixture was stirred at 100° C. for 3 hours, cooled to room temperature and poured into 600 ml of water. The resulting crystals were collected, washed with a small amount of cyclohexane and recrystallized from ethanol to give 0.9 g of the title compound as colorless needles melting at 168.0°-170.0° C.

reactant | N-(3,5-dibromophenyl)-N'-t-pentylthiourea | 2.4 g | BrC=1C=C(C=C(C1)Br)NC(=S)NC(C)(C)CC | C12H16Br2N2S
reactant | triphenylphosphine | 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 2.0 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
product | N-(3,5-dibromophenyl)-N'-t-pentylcarbodiimide | BrC=1C=C(C=C(C1)Br)N=C=NC(C)(C)CC | C12H14Br2N2
